US06670379B2
(S)-4-[4-(4-chloro-benzoyl)-piperidin-1-ylmethyl]-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester (0.68 g, 1.55 mmol) is added to a solution of hydrogen chloride in ethanol (5 ml, 5.5M). The reaction mixture is stirred at ambient temperature for 1 hour, then evaporated to dryness to afford [1-((S)-2-amino-3-hydroxy-propyl)-piperidin-4-yl]-(4-chloro-phenyl)-methanone hydrochloride. [MH] 297.0.

reactant | (S)-4-[4-(4-chloro-benzoyl)-piperidin-1-ylmethyl]-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester | 1.55 mmol, 0.68 g | C(C)(C)(C)OC(=O)N1C(OC[C@@H]1CN1CCC(CC1)C(C1=CC=C(C=C1)Cl)=O)(C)C | C23H33ClN2O4
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | 5.5M, 5 ml | C(C)O | C2H6O
product | [1-((S)-2-amino-3-hydroxy-propyl)-piperidin-4-yl]-(4-chloro-phenyl)-methanone hydrochloride | Cl.N[C@@H](CN1CCC(CC1)C(=O)C1=CC=C(C=C1)Cl)CO | InChI=1S/C15H21ClN2O2.ClH/c16-13-3-1-11(2-4-13)15(20)12-5-7-18(8-6-12)9-14(17)10-19;/h1-4,12,14,19H,5-10,17H2;1H/t14-;/m0./s1
